US07342118B2
2-[2-(3,5-Difluoro-phenyl)-2-hydroxy-acetylamino]-pentanoic acid [1-(1,1-dimethyl-2-pyrrolidin-1-yl-ethyl)-1H-imidazol-4-yl]-amide
2-Amino-pentanoic acid [1-(1,1-dimethyl-2-pyrrolidin-1-yl-ethyl)-1H-imidazol-4-yl]-amide was coupled with (3,5-Difluoro-phenyl)-hydroxy-acetic acid to afford the title compound: MS m/z 478.3 (M+1); Diastereomers were separated using a S,S-Whelk-O1 column (5 cm×25 cm), eluting with 70:30 heptane:iPrOH at a flow rate of 110 mL/min.

reactant | 2-Amino-pentanoic acid [1-(1,1-dimethyl-2-pyrrolidin-1-yl-ethyl)-1H-imidazol-4-yl]-amide | CC(CN1CCCC1)(C)N1C=NC(=C1)NC(C(CCC)N)=O | C16H29N5O
reactant | (3,5-Difluoro-phenyl)-hydroxy-acetic acid | FC=1C=C(C=C(C1)F)C(C(=O)O)O | C8H6F2O3
product | 2-[2-(3,5-Difluoro-phenyl)-2-hydroxy-acetylamino]-pentanoic acid [1-(1,1-dimethyl-2-pyrrolidin-1-yl-ethyl)-1H-imidazol-4-yl]-amide | CC(CN1CCCC1)(C)N1C=NC(=C1)NC(C(CCC)NC(C(O)C1=CC(=CC(=C1)F)F)=O)=O | C24H33F2N5O3
